US05219847
II-7-1: Synthesis of 2-undecanoylpyridine
To 100 ml of anhydrous ether was added 3.60 g of magnesium for Grignard reaction, and to the mixture was added while stirring 36.5 g of 1-bromodecane. After the magnesium was completely dissolved, a diethyl ether solution of 15.6 g (0.15 mol) of 2-cyanopyridine was added dropwise, and the mixture was refluxed for 7 hours. After cooling, saturated ammonium chloride solution was added, the diethyl ether layer was separated, and the aqueous layer was further extracted with diethyl ether. The ether layers were combined, washed with water, and then dried over anhydrous sodium sulfate. After concentration under a reduced pressure, the residue was purified by separation according to silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 21.6 g of the desired product (yield 58.3%).

reactant | magnesium | 3.60 g | [Mg] | Mg
reactant | 1-bromodecane | 36.5 g | BrCCCCCCCCCC | C10H21Br
reactant | 2-cyanopyridine | 0.15 mol, 15.6 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
product | 2-undecanoylpyridine | 21.6 g, yield 58.3% | C(CCCCCCCCCC)(=O)C1=NC=CC=C1 | C16H25NO
